US08138197B2
tert-Butyl 6-cyano-4-hydroxy-spiro[chroman-2,4′-piperidine]-1′-carboxylate
To a solution of 15 g of tert-butyl 6-cyano-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate in 250 mL of EtOH-THF(1:4) at 0° C. was added NaBH4 portionwise, and the reaction mixture was allowed to warm up to rt. After stirring for 1 h, NH4Cl aqueous was added to the reaction mixture and the aqueous mixture was extracted with AcOEt twice. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated in reduced pressure to give the intended compound as a pale yellow solid.

reactant | tert-butyl 6-cyano-4-oxospiro[chroman-2,4′-piperidine]-1′-carboxylate | 15 g | C(#N)C=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=CC1)=O | C19H22N2O4
reactant | NaBH4 | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | EtOH THF | 250 mL | CCO.C1CCOC1
product | tert-Butyl 6-cyano-4-hydroxy-spiro[chroman-2,4′-piperidine]-1′-carboxylate | C(#N)C=1C=C2C(CC3(CCN(CC3)C(=O)OC(C)(C)C)OC2=CC1)O | C19H24N2O4
